US05519160
Preparation of methyl 1-methyl-2-oxocylopentanecarboxylate
2.52 g of sodium hydride (60% oily sodium hydride washed with anhydrous benzene) was added to 50 ml of anhydrous dimethylformamide under nitrogen atmosphere while stirring. 14.2 g of 2-methoxycarbonylcylopentanone was added to the mixture, followed by stirring at room temperature until generation of hydrogen was terminated. Next, 15 g of methyl iodide was added, and the mixture was stirred for a further 2 hours at 60° C. The reaction mixture thus obtained was poured into 300 ml of diluted hydrochloric acid solution and extracted with ethyl acetate. The organic layer was washed with water and dried over anhydrous sodium sulfate, followed by evaporation of the solvent under reduced pressure. The oily residue obtained was purified by vacuum distillation to obtain 14.5 g of the title compound.

reactant | sodium hydride | 2.52 g | [H-].[Na+]
reactant | 2-methoxycarbonylcylopentanone | 14.2 g | COC(=O)C1C(CCC1)=O | C7H10O3
reactant | hydrogen | [H][H] | H2
reactant | hydrochloric acid | 300 ml | Cl | ClH
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | methyl 1-methyl-2-oxocylopentanecarboxylate | 14.5 g | CC1(C(CCC1)=O)C(=O)OC | C8H12O3
